US07625886B2
6b) (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 39 mg (1.61 mmol) LiOH in 5 mL water was added to a solution of 240 mg (0.32 mmol) (R)-2-(1′-ethoxycarbonylmethyl-4,4′-bipiperidinyl-1-yl)-1-(4-methyl-2-oxo-2,3-dihydrobenzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 10 mL THF and the reaction solution was stirred for 1 h at RT. 1.61 mL of 1 M HCl was added and the mixture was evaporated down i.vac. The residue was combined with a little water, stirred, the water was decanted off and the residue was dried in the air.

reactant | LiOH | 1.61 mmol, 39 mg | [Li+].[OH-]
reactant | (R)-2-(1′-ethoxycarbonylmethyl-4,4′-bipiperidinyl-1-yl)-1-(4-methyl-2-oxo-2,3-dihydrobenzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.32 mmol, 240 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)OCC)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C40H52N6O8
reactant | HCl | 1 M, 1.61 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C38H48N6O8
